US04778803
1-(5-Hydroxy-2-thienyl)-1-hexanone
55.0 g (0.216 mol) of 1-[5-(1,1-dimethyl-ethoxy)-2-thienyl]-1-hexanone are heated under reflux in 400 ml of methanol and 24 ml of concentrated hydrochloric acid for 2.5 hours. The mixture is then evaporated in vacuo, the residue is taken up in 500 ml of ether and the mixture is washed twice with 50 ml of water each time. The organic phase is dried over sodium sulfate, filtered and evaporated. The residue (42.2 g of dark brown crystals, 99%) is digested with petroleum ether:diisopropyl ether =7:3.

reactant | 1-[5-(1,1-dimethyl-ethoxy)-2-thienyl]-1-hexanone | 0.216 mol, 55.0 g | CC(C)(OC1=CC=C(S1)C(CCCCC)=O)C | C14H22O2S
reactant | hydrochloric acid | 24 ml | Cl | ClH
solvent | methanol | 400 ml | CO | CH4O
product | 1-(5-Hydroxy-2-thienyl)-1-hexanone | OC1=CC=C(S1)C(CCCCC)=O | C10H14O2S
